US05451601
0.32 g of carbonyldiimidazole is added to a solution, cooled to +4° C., of 0.36 g of (S)-2-(2-methoxyphenyl)-propionic acid in 20 cm3 of dry dichloromethane. The mixture is stirred for one hour at +4° C. and then a solution of 0.67 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydro-isoindole hydrochloride in 20 cm3 of dry dichloromethane and 0.28 cm3 of triethylamine, is added. The reaction mixture is stirred at room temperature for 20 hours, diluted with 200 cm3 of dichloromethane and then washed with 50 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3 cm, height 20 cm), eluting under a nitrogen pressure of 0.4 bar with an ethyl acetate and cyclohexane mixture (60/40 by volume) and collecting fractions of 20 cm3. Fractions 10 to 15 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from 0.6 cm3 of isopropyl oxide. The crystals obtained are drained, washed with isopropyl oxide and then dried. 0.19 g of (3aR,7R,7aR)-4,4-diphenyl-7-fluoro-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindole is obtained in the form of white crystals; melting point 195° C.

reactant | carbonyldiimidazole | 0.32 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-2-(2-methoxyphenyl)-propionic acid | 0.36 g | COC1=C(C=CC=C1)[C@@H](C(=O)O)C | C10H12O3
reactant | (3aR,7R,7aR)-4,4-diphenyl-7-fluoroperhydro-isoindole hydrochloride | 0.67 g | Cl.C1(=CC=CC=C1)C1([C@@H]2CNC[C@@H]2[C@@H](CC1)F)C1=CC=CC=C1
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 0.28 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
product | (3aR,7R,7aR)-4,4-diphenyl-7-fluoro-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindole | 0.19 g | C1(=CC=CC=C1)C1([C@@H]2CN(C[C@@H]2[C@@H](CC1)F)C([C@@H](C)C1=C(C=CC=C1)OC)=O)C1=CC=CC=C1 | C30H32FNO2
